US08461181B2
A mixture of 1.16 g of N-(sec-butyl)-2-nitro-4-trifluoromethylaniline, 9 ml of ethanol and 0.12 g of 5% palladium charcoal was stirred for 5.5 hours at room temperature under a hydrogen atmosphere of about 1 atm. The reaction mixture was filtrated through Celite (registered trademark), and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.76 g of N1-sec-butyl-4-trifluoromethylbenzene-1,2-diamine.

reactant | N-(sec-butyl)-2-nitro-4-trifluoromethylaniline | 1.16 g | C(C)(CC)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C11H13F3N2O2
catalyst | palladium charcoal | 0.12 g | [Pd] | Pd
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | N1-sec-butyl-4-trifluoromethylbenzene-1,2-diamine | 0.76 g | C(C)(CC)NC=1C(=CC(=CC1)C(F)(F)F)N | C11H15F3N2
